US06388128B1
Lithium wire (1% Na) (68 mg, 9.7 mg-atom) was added in 0.3-cm pieces to a stirred, cooled (0° C. internal) solution of 4,4′-di-t-butylbiphenyl (2.66 g, 10.0 mmol) and 5 mg of 2,2′-bipyridyl in 20 mL of dry tetrahydrofuran (THF) under argon. The mixture was titrated to a red endpoint with n-BuLi (2.5 M in hexane, 0.12 mL) and stirred for 15 hours to form a deep blue-green solution of lithium 4,4′-di-t-butylbiphenyl. The solution was cooled to −45° C. (internal), and a solution of (R)-1-(3-chloro-1-cyclohexyl)propyl(1-ethoxyethyl)ether (1.12 g, 4.5 mmol) in 9.0 mL of dry hexane was added dropwise. After 5 minutes, a solution of 0.25 M lithium (2-thienyl)cyanocuprate in THF (20 mL) was added dropwise. After 10 minutes, a solution of (R)-2-((diethylamino)methyl)-4-(t-butyldimethylsiloxy)-2-cyclopentenone (1.12 g, 3.77 mmol) in 20 mL of dry THF was added dropwise. The solution was allowed to warm to −20° C. and was quenched into a rapidly stirred mixture of diethyl ether and saturated aqueous NH4Cl. After four hours, the layers were separated and the aqueous solution was extracted with ethyl acetate. The combined organic solutions were dried (MgSO4), filtered and concentrated and the crude product was purified by chromatography on silica to give 0.95 g (57.5%) of (3R,4R)-2-methylene-3-[(3′R)-3′-(1-ethoxy)ethoxy)-3′-cyclohexyl-1′-propyl]-4-(t-butyldimethylsiloxy)cyclopentan-1-one. NMR (CDCl3) δ0.06 (s, 3H), 0.08 (s, 3H), 0.87 (s, 9H), 0.8-1.9 (m, 15H), 1.17 and 1.20 (2 overlapping t, J=7, 3H), 1.29 and 1.30 (2 overlapping d, J=5.3, 3H), 2.30 (A of ABX, Jab=18.0, Jax=4.6, 1H), 2.62 (B of ABX, Jab=17.8, Jbx=5.8, 1H), 2.65 (br s, 1H), 3.30 (br q, J=4, 1H), 3.55 (m, J=6, 2H), 4.12 (pent, J=5.2, 1H), 4.68 (2 overlapping q, J=5.2, 1H), 5.29, 5.32 (both s, 2:3 ratio, total 1H), 6.08 (s, 1H).

reactant | Lithium | 68 mg | [Li] | Li
reactant | 4,4′-di-t-butylbiphenyl | 10.0 mmol, 2.66 g | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C)C | C20H26
reactant | 2,2′-bipyridyl | 5 mg | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | n-BuLi | 2.5 M, 0.12 mL | [Li]CCCC
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | lithium 4,4′-di-t-butylbiphenyl | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C)C.[Li] | InChI=1S/C20H26.Li/c1-19(2,3)17-11-7-15(8-12-17)16-9-13-18(14-10-16)20(4,5)6;/h7-14H,1-6H3;
